US07652041B2
Step 6. Preparation of (E)-N-(3-tert-butylphenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)-2-(hydroxymethyl)acrylamide (B-140)
(E)-2-((tert-butyldimethylsilyloxy)methyl)-N-(3-tert-butylphenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)acrylamide (107 mg, 0.18 mmol) was dissolved in a 1:1 mixture of THF/pyridine (3 mL). The reaction mixture was cooled to 0° C. and 20 drops of HF/pyridine were added. The reaction was sealed and allowed to warm to rt over 5 h. The mixture was diluted with EtOAc and washed with sat. NaHCO3, dried over Na2SO4, filtered, and concentrated. Purification by column chromatography (SiO2, 0-10% MeOH with 1% NH4OH in DCM) provided B-140 (32 mg). LCMS, FA: Rt=1.21 min, [MH+ 471.0]. 1H NMR (300 MHz, d4-MeOH): δ 8.48 (d, 1H), 7.68 (t, 1H), 7.56-7.51 (m, 3H), 7.48-7.44 (m, 1H), 7.41 (d, 1H), 7.31 (t, 1H), 7.25 (t, 1H), 7.19-7.15 (m, 2H), 7.08-7.05 (dd, 1H), 4.52 (s, 2H), 3.75 (s, 4H), and 1.32 (s, 9H).

reactant | (E)-2-((tert-butyldimethylsilyloxy)methyl)-N-(3-tert-butylphenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)acrylamide | 0.18 mmol, 107 mg | [Si](C)(C)(C(C)(C)C)OC/C(/C(=O)NC1=CC(=CC=C1)C(C)(C)C)=C\C1=CC(=CC=C1)OC1=CC(=NC=C1)C=1NCCN1 | C34H44N4O3Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | THF pyridine | 3 mL | C1CCOC1.N1=CC=CC=C1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-N-(3-tert-butylphenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridin-4-yloxy)phenyl)-2-(hydroxymethyl)acrylamide | C(C)(C)(C)C=1C=C(C=CC1)NC(\C(=C\C1=CC(=CC=C1)OC1=CC(=NC=C1)C=1NCCN1)\CO)=O | C28H30N4O3
